Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Hydrochlorothiazide / Augmentin
 
Attending: ___
 
Chief Complaint:
lightheadedness, sweating, difficulty speaking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ right-handed woman presenting with
the above on a background of prior transient ischemic attacks,
hypercholesterolemia, smoking and known left MCA stenosis.

She was in her usual state of health today. She went to her
hairdresser at 2 ___ and felt 'sweaty' and 'lightheaded' while
waiting. She got into the chair and had difficulty finding the
right words, but was able to speak, did not sound slurred and 
was
able to understand. She had no weakness or sensory symptoms. Her
grandson thinks that her right face might have drooped, but he
was not there and she did not notice this. Symptoms lasted 20
minutes then resolved completely. She went to ___
and asked to be transferred to ___.

She had an episode of right sided weakness several years ago, in
___, with weak right leg and arm, that resolved. This was
associated with similar aphasia. Left MCA stenosis was found and
Dr. ___ left MCA angioplasty, per the patient. She
had two repeat angiograms, the last in ___, without plan for
further intervention based on these. Between ___ and now she 
has
not had another such "TIA". 

Review of systems negative except as above.
 
Past Medical History:
- Hypertension
- Hyperlipidemia
- Smoking
- Cerebrovascular disease as above
- Tubal ligation
- Tonsil and adenoid surgery
- Left knee meniscus tear
- Osteoarthritis
- Claims to be on Coumadin (INR is 1.0) and denies AF
 
Social History:
___
Family History:
Mother with stroke at age ___.

 
Physical Exam:
PHYSICAL EXAM:

Vitals: 97.8  69  110/64  18  97% 

General Appearance: Comfortable, no apparent distress.
HEENT: NC, OP clear, MMM.
Neck: Supple. No bruits.
Lungs: CTA bilaterally.
Cardiac: RRR. Normal S1/S2. No M/R/G.
Abdominal: Soft, NT, BS+
Extremities: Varicose veins, r > l. Dusky toes of left foot.
Cool. Peripheral pulses reduced.

Neurologic:

Mental status:
Awake and alert, cooperative with exam, normal affect.
Orientation: Oriented to person, place, date and context.
Language: Normal fluency, comprehension, repetition, naming. No
paraphasic errors.
Registration of three words at one trial and recall of all at
five minutes without hints.
Fund of knowledge for recent events within normal limits.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 3 to 2 mm
bilaterally. Visual fields are full to confrontation. Normal
fundi.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetric.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Posture normal and no truncal ataxia.

Tone normal throughout. Normal bulk.

Power   
    D   B   T   WE  WF  FF  FAb | IP  Q   H   AT  G/S ___ TF
R   ___   ___   4+  | ___   ___   5 
L   ___   ___   4+  | ___   ___   5 

Reflexes: B  T  Br Pa Ac
Right     ___  2  1 
Left      ___  2  1 
Toes up on right and equivocal on left.

Sensation intact to light touch, vibration, joint position,
pinprick bilaterally. Romberg negative.

Normal finger nose, great toe finger, RAM's bilaterally.

Gait:
Normal initiation, cessation, turn, armswing, base. Tandem
normal.

 
Pertinent Results:
___ 08:20PM   GLUCOSE-88 UREA N-14 CREAT-0.6 SODIUM-134 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-20* ANION GAP-16
___ 08:20PM   CALCIUM-9.9 PHOSPHATE-4.1 MAGNESIUM-2.1 
CHOLEST-141
___ 08:20PM   TRIGLYCER-113 HDL CHOL-54 CHOL/HDL-2.6 
LDL(CALC)-64
___ 08:20PM   TSH-2.2
___ 08:20PM   WBC-6.7 RBC-4.58 HGB-14.5 HCT-42.8 MCV-93 
MCH-31.7 MCHC-34.0 RDW-12.1
___ 08:20PM   NEUTS-62.7 ___ MONOS-4.4 EOS-3.0 
BASOS-0.5
___ 08:20PM   PLT COUNT-243
___ 08:20PM   ___ PTT-25.5 ___

CXR: Normal heart, lungs, hila, mediastinum and pleural 
surfaces.

CT/CTA:
1. No evidence of acute infarct or intracranial hemorrhage. MRI 
head is 
advised if there is clinical concern for infarct. CT perfusion 
can be 
performed if degree of ischemia is a clinical concern. 
  
2. Predominantly calcified plaque at the proximal left internal 
carotid 
artery causing approximately 30 to 40% stenosis. 
  
3. Soft and calcified plaque in the proximal right internal 
carotid artery 
causing approximately 40 to 50% stenosis. 
  
4. High-grade stenosis of M1 and M2 segment of left middle 
cerebral artery 
with paucity of distal branches which has progressed since the 
prior study. 

 
Brief Hospital Course:
Ms. ___ was admitted on ___ after an episode of 
lightheadedness and dipahoresis along with word finding 
difficulties. Her symptoms resolved within 20 minutes and did 
not recur during her admission. A CT/CTA of her head and neck 
showed stenosis of the L MCA M1 segment without overt occlusion.

She was continued on her home aspirin and plavix. She reported 
being on coumadin, saying she adjusts her dose based on INR but 
has not had INR checked for the last month. INR was 1.0 on 
admission. Per discussion with her PCP ___, she is 
supposed to be on coumadin along with aspirin and plavix but has 
been very noncompliant with this and is frequently 
subtherapeutic. The decision was made to stop her coumadin and 
plavix and start her on Pradaxa 150mg BID. It was thought that 
she would be more compliant with Pradaxa since it does not 
require frequent blood checks and dose adjustments. We 
petitioned her insurance company to allow us to prescribe 
Pradaxa and it was approved. We also discussed with the patient 
at length that she has a critical intracranial vascular lesion 
and that medications such as Coumadin and Pradaxa are necessary 
to help her keep that vessel open and prevent any in-situ 
thrombosis. She should continue to take a baby aspirin as well.

Lisinopril was held and she was continued on metoprolol at half 
her home dose. Labs were unremarkable.

She was encouraged to stop smoking and has been prescribed 
Chantix to help with this. She was instructed to follow up with 
her PCP for further management of this.

Cardiovascular
She was maintained on telemetry monitoring. Her home statin was 
continued. Lisinopril was held and she was continued on 
metoprolol at half her home dose. She was restarted on her home 
antihypertensive management

Psychiatric
She was continued on wellbutrin. She was strongly encouraged to 
stop smoking and was prescribed Chantix to help with this. If 
she does well with Chantix, then one could consider taking her 
off the Wellbutrin.

Endocrine
She was maintained on ISS during her admission.

Infectious Disease
She remained afebrile with no signs of admission during her 
admission.

FEN
She was maintained on IV hydration before and after the contrast 
load for her CTA. Electrolytes were monitored and repleted as 
needed.

Prophylaxis
She was maintained on subQ heparin for DVT prophylaxis and a 
bowel regimen for GI prophylaxis.

Code Status: Full

She has an appointment with her PCP ___ on ___. 
She will also follow up with Dr. ___ in stroke clinic on 
___.

She was discharged home on ___ in good condition.
 
Medications on Admission:
- ASA 81 mg
- Plavix 75 mg
- Metoprolol 50 mg daily (likely succinate)
- Lisinopril 40 mg 
- Coumadin, claims to take ___ mg daily, depending on INR (she
does not know any numbers)
- Wellbutrin SR 150 mg QD
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
3. Chantix Starting Month Pak 0.5(11)-1(3X14) mg Tablets, Dose 
Pack Sig: See instructions Tablets, Dose Pack PO See 
instructions: 0.5 mg ORALLY once daily for days 1 through 3, 
then 0.5 mg twice daily for days 4 through 7, then 1 mg twice 
daily; duration of treatment is 12 weeks.
Disp:*QS Tablets, Dose Pack(s)* Refills:*1*
4. Fish Oil 1,000 mg Capsule Sig: One (1) Capsule PO twice a 
day.
Disp:*60 Capsule(s)* Refills:*0*
5. metoprolol succinate 50 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO once a day.  
6. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Pradaxa 150 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA
Low blood pressure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ on 
___ after an episode of sweating, lightheadedness, and 
difficulty speaking. A CT and CTA of your brain showed narrowing 
of the left middle cerebral artery (as you have had before). We 
think your symptoms were most likely related to a TIA in the 
setting of low blood pressure with decreased blood flow to your 
brain.

The narrowing of your left middle cerebral artery puts you at 
high risk for stroke. Because of this you need to be on 
medications to thin your blood. We have stopped your coumadin 
and changed you to a new medication called Pradaxa which does 
not require lab draws. However you MUST take this consistently 
twice a day every day for it to be effective. You should 
continue to take a baby aspirin along with this but can stop 
taking Plavix.

Smoking is the number one risk factor for narrowing of the 
arteries of the brain that can lead to stroke. You absolutely 
need to stop smoking in order to prevent future strokes. You 
have been prescribed a medication called Chantix to help with 
this. You should follow up with your primary care doctor 
regularly to help you successfully quit smoking.

We made the following changes to your medications:
STOPPED Coumadin
STOPPED Plavix
STARTED Pradaxa 150mg twice a day
STARTED Chantix to help you stop smoking
STARTED Fish oil supplements to help with your cholesterol

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.
 
It was a pleasure taking care of you during your hospital stay.
 
Followup Instructions:
___